US05616596
To a 0° C. mixture of 2-thiophenemethanol (2.80 g, 24.5 mmol) and triethylamine (5.10 mL, 36.8 mmol) in CH2Cl2 (25 mL) was added methanesulfonyl chloride (2.09 mL, 27.0 mmol) and the reaction mixture was stirred for 2 hours. The reaction mixture was poured into H2O and the layers were separated. The organic phase was washed with cold 1N HCl (3×), saturated aqueous NaHCO3, and brine, dried over MgSO4, filtered. and concentrated in vacuo. 2-thienylmethyl methanesulfonate (1.78 g, 38%) was obtained by chromatography on silica gel (20% ethyl acetate/hexane).

reactant | 2-thiophenemethanol | 24.5 mmol, 2.80 g | S1C(=CC=C1)CO | C5H6OS
reactant | triethylamine | 36.8 mmol, 5.10 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 27.0 mmol, 2.09 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | H2O | O | H2O
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-thienylmethyl methanesulfonate | 1.78 g, 38% | CS(=O)(=O)OCC=1SC=CC1 | C6H8O3S2
